US07829570B2
N1-[4-(7-Amino-1H-pyrazolo[4,3-d]pyrimidin-1-yl)-2-Methoxyphenyl]-2-fluoro-4-(trifluoromethyl)benzamide acetate
1-(4-Amino-3-methoxyphenyl)-3-iodo-1H-pyrazolo[4,3-d]pyrimidin-7-amine (80 mg, 0.209 mmol) in dichloromethane (5 mL) and pyridine (0.5 mL) was cooled to 5° C. in an ice bath then 2-fluoro-4-(trifluoromethyl)benzoyl chloride (52 mg, 0.230 mmol) was added dropwise. The solution was warmed to ambient temperature for 30 minutes then the solvents were removed by evaporation. The residue was dissolved in methanol (10 mL), 10% palladium on carbon (50 mg) was added and the mixture was hydrogenated at atmospheric pressure and 60° C. for 1 hour. The catalyst was removed by filtration through a pad of diatomaceous earth then the filtrate was concentrated and the material purified by preparative reverse phase chromatography. Lyophilization yielded the title compound (25 mg) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 9.98 (s, 1H), 8.32 (m, 3H), 7.99 (t, 1H), 7.89 (d, 1H), 7.75 (d, 1H), 7.32 (d, 1H), 7.18 (m, 1H), 6.7 (bs, 2H), 3.93 (s, 3H), 1.60 (s, 3H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 18.75 min; MS: MH+ 447.1, M−H+ 445.1

reactant | 1-(4-Amino-3-methoxyphenyl)-3-iodo-1H-pyrazolo[4,3-d]pyrimidin-7-amine | 0.209 mmol, 80 mg | NC1=C(C=C(C=C1)N1N=C(C=2N=CN=C(C21)N)I)OC | C12H11IN6O
reactant | 2-fluoro-4-(trifluoromethyl)benzoyl chloride | 0.230 mmol, 52 mg | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | N1-[4-(7-Amino-1H-pyrazolo[4,3-d]pyrimidin-1-yl)-2-Methoxyphenyl]-2-fluoro-4-(trifluoromethyl)benzamide acetate | 25 mg | C(C)(=O)O.NC=1C2=C(N=CN1)C=NN2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC | InChI=1S/C20H14F4N6O2.C2H4O2/c1-32-16-7-11(30-17-15(8-28-30)26-9-27-18(17)25)3-5-14(16)29-19(31)12-4-2-10(6-13(12)21)20(22,23)24;1-2(3)4/h2-9H,1H3,(H,29,31)(H2,25,26,27);1H3,(H,3,4)
